US04028089
The procedure described in Example 1 is repeated using, instead of 3,3-bis(methylthio)-2-cyanoacrylonitrile, an equivalent amount of 3,3-bis(methylthio)-2-cyanoacrylic acid morpholide and holding the mixture under reflux for 24 hours to obtain 2-benzoxazolinylidene-cyanoacetic acid morpholide of melting point 217°-219° C. (from ethanol).

reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3,3-bis(methylthio)-2-cyanoacrylic acid morpholide | CSC(=C(C(=O)N1CCOCC1)C#N)SC | C10H14N2O2S2
solvent | ethanol | C(C)O | C2H6O
product | 2-benzoxazolinylidene-cyanoacetic acid morpholide | O1C(NC2=C1C=CC=C2)=C(C(=O)N2CCOCC2)C#N | C14H13N3O3
